US03931232
3-(1,2-Diethylheptyl)-5,6,7,8-tetrahydro-1-hydroxy-6,9-dimethylxanthene
Condensation of 5-(1,2-diethylheptyl)resorcinol and 2-acetyl-5-methylcyclohexanone as described in the procedure of Example 1 gives the title compound.

reactant | 5-(1,2-diethylheptyl)resorcinol | C(C)C(C(CCCCC)CC)C=1C=C(C=C(O)C1)O | C17H28O2
reactant | 2-acetyl-5-methylcyclohexanone | C(C)(=O)C1C(CC(CC1)C)=O | C9H14O2
product | 3-(1,2-Diethylheptyl)-5,6,7,8-tetrahydro-1-hydroxy-6,9-dimethylxanthene | C(C)C(C(CCCCC)CC)C=1C=C(C=2C(C=3CCC(CC3OC2C1)C)C)O | C26H40O2
